US05530002
4.2. N-[7-(Cyclopropylmethoxy)naphth-1-yl]acetamide
17.1 g (0.085 mol) of N-(7-hydroxynaphth-1-yl)acetamide in solution in 50 ml of dimethyl sulphoxide are added under a nitrogen atmosphere to a suspension of 3.4 g (0.085 mol) of sodium hydride in oil, washed beforehand with dry pentane), in 100 ml of dimethyl sulphoxide, while the mixture is cooled with an ice-water bath. Stirring is continued at room temperature for 2 h. 9.05 g (0.1 mol) of (chloromethyl)cyclopropane are added, and the mixture is stirred at room temperature for 4 h and left to stand overnight. The mixture is poured into 1 l of water, stirred for 1 h and left to stand overnight under cold conditions. The solid is separated by filtration, washed with water and dried. 13 g of a product melting point: 154°-155° C., are obtained which is used as it is in the following step.

reactant | N-(7-hydroxynaphth-1-yl)acetamide | 0.085 mol, 17.1 g | OC1=CC=C2C=CC=C(C2=C1)NC(C)=O | C12H11NO2
reactant | sodium hydride | 0.085 mol, 3.4 g | [H-].[Na+]
reactant | (chloromethyl)cyclopropane | 0.1 mol, 9.05 g | ClCC1CC1 | C4H7Cl
reactant | water | 1 l | O | H2O
solvent | dimethyl sulphoxide | 50 ml | CS(=O)C | C2H6OS
product | N-[7-(Cyclopropylmethoxy)naphth-1-yl]acetamide | 13 g | C1(CC1)COC1=CC=C2C=CC=C(C2=C1)NC(C)=O | C16H17NO2
